US07514583B2
1-(3,4-methylenedioxyphenyl)-3-(3,4-methylenedioxybenzyl)urea (DC-0077B)
A solution of 3,4-methylenedioxybenzylamine (0.37 g) and 3,4-methylenedioxyphenyl isocyanate (0.4 g) in benzene (25 ml) was refluxed for 1 hour. The precipitate formed was filtered, washed with benzene then dried to give pure DC-0077B (0.78 g, 98%) as a pale brown solid.

reactant | 3,4-methylenedioxybenzylamine | 0.37 g | C1OC=2C=C(CN)C=CC2O1 | C8H9NO2
reactant | 3,4-methylenedioxyphenyl isocyanate | 0.4 g | C1OC=2C=C(C=CC2O1)N=C=O | C8H5NO3
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
product | 1-(3,4-methylenedioxyphenyl)-3-(3,4-methylenedioxybenzyl)urea | C1OC=2C=C(C=CC2O1)NC(=O)NCC1=CC2=C(C=C1)OCO2 | C16H14N2O5
